US07276539B2
(i) Methyl 2-chloro-3-[4-(2-hydroxyethyl)phenyl]propanoate
2-(4-Aminophenyl)ethanol (11 g, 81 mmol) and 32 ml conc HCl was dissolved in acetone and cooled to 0° C. Sodium nitrite (5.6 g, 81 mmol) in 20 ml water was added dropwise. The temperature was kept under 0° C. After one hour, methyl acrylate (70 g, 808 mmol) and CuI (1.6 g, 8 mmol) were added (<0° C.). The reaction mixture was stirred at room temperature overnight.

reactant | 2-(4-Aminophenyl)ethanol | 81 mmol, 11 g | NC1=CC=C(C=C1)CCO | C8H11NO
reactant | HCl | 32 ml | Cl | ClH
reactant | Sodium nitrite | 81 mmol, 5.6 g | N(=O)[O-].[Na+]
reactant | methyl acrylate | 808 mmol, 70 g | C(C=C)(=O)OC | C4H6O2
solvent | acetone | CC(=O)C | C3H6O
solvent | water | 20 ml | O | H2O
catalyst | CuI | 8 mmol, 1.6 g | [Cu]I
product | Methyl 2-chloro-3-[4-(2-hydroxyethyl)phenyl]propanoate | ClC(C(=O)OC)CC1=CC=C(C=C1)CCO | C12H15ClO3
